US04705856
(2) 3-dimethylamino-2-(dimethylaminomethyleneamino)-crotonic acid-ethyl ester) (azadiene 2)
A mixture of 4.7 g of N(dimethylaminomethylene)-glycine-ethyl ester (W. Kantlehner et al., Liebigs Ann. Chem. 1980, 344), 8 g of dimethylacetamide-dimethylacetal and 0.4 g of potassium tert-butylate, analogously to 1b), is heated for 8 hours with distilling off of the resulting alcohols. The residue is fractionated.

reactant | N(dimethylaminomethylene)-glycine-ethyl ester | 4.7 g | C(C)OC(CN=CN(C)C)=O | C7H14N2O2
reactant | dimethylacetamide-dimethylacetal | 8 g | COC(C)(N(C)C)OC | C6H15NO2
reactant | potassium tert-butylate | 0.4 g | CC(C)(C)[O-].[K+]
product | 3-dimethylamino-2-(dimethylaminomethyleneamino)-crotonic acid-ethyl ester | C(C)OC(\C(=C(\C)/N(C)C)\N=CN(C)C)=O | C11H21N3O2
